US04093812
Stir an admixture of 3.4 g of finely pulverized 1-isopropyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehydeoxime in 15 ml of 1,2-dichloroethane with 1.8 g of thionyl chloride for 80 minutes at 55° C. Evaporate the resulting solution to dryness in vacuo and then evaporate to dryness twice more after mixing with 1,2-dichloroethane to obtain a 99% yield of 1-isopropyl-3-(5-nitro-2-furyl)pyrazole-4-carbonitrile [m.p. 181° to 182° C (from ethanol)].

reactant | 1-isopropyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehydeoxime | C(C)(C)N1N=C(C(=C1)C=NO)C=1OC(=CC1)[N+](=O)[O-] | C11H12N4O4
reactant | thionyl chloride | 1.8 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 1-isopropyl-3-(5-nitro-2-furyl)pyrazole-4-carbonitrile | 99% yield | C(C)(C)N1N=C(C(=C1)C#N)C=1OC(=CC1)[N+](=O)[O-] | C11H10N4O3
